US07589206B2
(a) 7-Chloro-4-iodo-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridine
To a solution of 7-chloro-4-iodo-3-methyl-1H-pyrrolo[2,3-c]pyridine (2 g) in dry tetrahydrofuran (100 ml) at 0° C. under argon was added portionwise sodium hydride (60% dispersed in mineral oil 603 mg). After addition the ice-bath was removed and the solution stirred at room temperature for 30 minutes. The solution was re-cooled to 0° C. and a solution of methyl iodide (3.41 ml) in dry tetrahydrofuran (40 ml) was added dropwise. The solution was allowed to warm to room temperature and stirred overnight. The solution was evaporated and the residue partitioned between ethyl acetate (200 ml) and water (100 ml). Washed with water (2×100 ml, pH7) then dried (MgSO4), filtered and evaporated to an orange/yellow solid. The solid was stirred in hexane for 2 h then filtered off and dried to give the title compound (1.19 g).

reactant | 7-chloro-4-iodo-3-methyl-1H-pyrrolo[2,3-c]pyridine | 2 g | ClC=1N=CC(=C2C1NC=C2C)I | C8H6ClIN2
reactant | sodium hydride | 603 mg | [H-].[Na+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-Chloro-4-iodo-1,3-dimethyl-1H-pyrrolo[2,3-c]pyridine | 1.19 g | ClC=1N=CC(=C2C1N(C=C2C)C)I | C9H8ClIN2
